US07547691B2
2-{5-Methyl-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride
Using the method of 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride, the title compound is synthesized from 2-[5-methyl-2-(3-piperidin-4-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid amide and isolated as a yellow solid. ES+(m/z) 424 [M(free base)+H].

reactant | 2-{5-chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride | Cl.Cl.ClC=1C(=NC(=NC1)NCCC1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N
reactant | 2-[5-methyl-2-(3-piperidin-4-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid amide | CC=1C(=NC(=NC1)NCCCC1CCNCC1)C1=CC2=C(S1)C=CC=C2C(=O)N | C22H27N5OS
product | 2-{5-Methyl-2-[3-(1-methylpiperidin-4-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride | Cl.Cl.CC=1C(=NC(=NC1)NCCCC1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N | InChI=1S/C23H29N5OS.2ClH/c1-15-14-26-23(25-10-4-5-16-8-11-28(2)12-9-16)27-21(15)20-13-18-17(22(24)29)6-3-7-19(18)30-20;;/h3,6-7,13-14,16H,4-5,8-12H2,1-2H3,(H2,24,29)(H,25,26,27);2*1H
